US07482341B2
4-Chloro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.058 g) and 4-chloro-3-(trifluoromethyl)-benzenesulfonyl chloride (0.077 g) as a light yellow gum (0.084 g). MS (ESI−): 472.8 ([M−H]−)

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.058 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 4-chloro-3-(trifluoromethyl)-benzenesulfonyl chloride | 0.077 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
product | 4-Chloro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC=C(C=C1)F)C(F)(F)F | C20H15ClF4N2O3S
